US04182758
A mixture of 3-(N-hydroxyamino)propylphosphonic acid (1.64 g.) in 1N aqueous sodium hydroxide solution (10 ml.) and S-methylisothiourea sulfate (1.40 g.) in water (5 ml.) was heated to reflux for 1.5 hours and allowed to stand overnight at ambient temperature to give crystalline precipitates, which was collected by filtration and washed with water and then with ethanol to give 3-(1-hydroxyguanidino)propylphosphonic acid (690 mg.), mp: 244°-247° C. (dec.).

reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.64 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | S-methylisothiourea sulfate | 1.40 g | S(=O)(=O)(O)O.CSC(N)=N
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 3-(1-hydroxyguanidino)propylphosphonic acid | 690 mg | ON(C(=N)N)CCCP(O)(O)=O | C4H12N3O4P
